US05401842
Preparation of Stable Cefepime Dihydrochloride Dihydrate/L(+) Arginine Admixtures
Stable cefepime dihydrochloride dihydrate, 150 grams, and L(+) arginine, 86.25 g, were weighed and placed in a V-blender. The mixture was blended for 32 minutes. The blend was then screened through a 40 mesh US standard sieve, returned to the blender and blended for another 32 minutes.

reactant | cefepime dihydrochloride dihydrate | C[N+]1(CCCC1)CC2=C(N3[C@@H]([C@@H](C3=O)NC(=O)/C(=N\OC)/C4=CSC(=N4)N)SC2)C(=O)O.O.O.Cl.[Cl-]
reactant | L(+) arginine | C(C[C@@H](C(=O)O)N)CN=C(N)N | C6H14N4O2
product | Cefepime Dihydrochloride Dihydrate L(+) Arginine | C[N+]1(CCCC1)CC2=C(N3[C@@H]([C@@H](C3=O)NC(=O)/C(=N\OC)/C4=CSC(=N4)N)SC2)C(=O)O.O.O.Cl.[Cl-].C(C[C@@H](C(=O)O)N)CN=C(N)N | InChI=1S/C19H24N6O5S2.C6H14N4O2.2ClH.2H2O/c1-25(5-3-4-6-25)7-10-8-31-17-13(16(27)24(17)14(10)18(28)29)22-15(26)12(23-30-2)11-9-32-19(20)21-11;7-4(5(11)12)2-1-3-10-6(8)9;;;;/h9,13,17H,3-8H2,1-2H3,(H3-,20,21,22,26,28,29);4H,1-3,7H2,(H,11,12)(H4,8,9,10);2*1H;2*1H2/b23-12-;;;;;/t13-,17-;4-;;;;/m10..../s1
